US07358373B2
Sodium hydride (430 mg, 60%, 10.75 mmol) was placed in a flask with hexane and stirred under nitrogen. After 10 minutes the hexane was discarded and 10 ml dry DMF was added. After cooling to 0° C., 4-hydroxy-benzoic acid methyl ester Q-2 (1.67 g, 11 mmol) was added and the mixture stirred for 15 minutes. 4-Chloromethyl-quinoline Q-1 (1.8 g, 10.1 mmol) was dissolved in 3 mL of DMF and added dropwise to the reaction mixture. The temperature was raised to 130° C. and the mixture stirred for a half hour. After cooling to room temperature the reaction mixture was poured into 50 mL 1N sodium hydroxide solution and extracted three times with 20 mL dichloromethane. The combined organic layers were washed twice with water, dried over sodium sulfate and concentrated in vacuo. The crude product (2.5 g) was recrystallized from ethyl ether to give 4-(quinolin-4-ylmethoxy)-benzoic acid methyl ester (1.6 g, 5.45 mM) as a white solid.

reactant | Sodium hydride | 10.75 mmol, 430 mg | [H-].[Na+]
reactant | 4-hydroxy-benzoic acid methyl ester | COC(C1=CC=C(C=C1)O)=O | C8H8O3
reactant | 4-Chloromethyl-quinoline | 10.1 mmol, 1.8 g | ClCC1=CC=NC2=CC=CC=C12 | C10H8ClN
reactant | sodium hydroxide | 1N, 50 mL | [OH-].[Na+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | hexane | CCCCCC | C6H14
product | 4-(quinolin-4-ylmethoxy)-benzoic acid methyl ester | 5.45 mM, 1.6 g | COC(C1=CC=C(C=C1)OCC1=CC=NC2=CC=CC=C12)=O | C18H15NO3
